US09447074B2
1-[4-{[(4-methyl-2-pyridinyl)methyl]oxy}-3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)phenyl]ethanone
1,1-dimethylethyl 7-(5-acetyl-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (3.0 g) was dissolved in dioxane (20 ml). Gaseous hydrogen chloride was passed through the reaction mixture for 1.5 h. The reaction was monitored by TLC. On completion the solid formed was collected by filtration and washed with acetone. The solid was then dissolved in water and the mixture neutralised with aqueous sodium hydroxide (1M). Solid was obtained which was collected by filtration. This was triturated with diethyl ether to yield the title compound, 2.1 g (88%).

reactant | 1,1-dimethylethyl 7-(5-acetyl-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.0 g | C(C)(=O)C=1C=CC(=C(C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CC(=C1)C | C30H34N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-[4-{[(4-methyl-2-pyridinyl)methyl]oxy}-3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)phenyl]ethanone | CC1=CC(=NC=C1)COC1=C(C=C(C=C1)C(C)=O)C1=CC2=C(CCNCC2)C=C1 | C25H26N2O2
